US04360464
33.7 Parts of 2-(p-methoxybenzyloxy)-1,3-dibromo-propane, 70 parts of monomethylamine and 70 parts of water were added to an autoclave, and the mixture was heated at 90° C. for 48 hours with agitation. The reaction mixture was cooled and treated in the same manner as in Example 29, followed by distillation under reduced pressure. As a result, 11.7 parts of 3-(p-methoxybenzyloxy)-1-methylazetidine boiling at 85°-87° C. under 2 mm Hg were obtained.

reactant | 2-(p-methoxybenzyloxy)-1,3-dibromo-propane | COC1=CC=C(COC(CBr)CBr)C=C1 | C11H14Br2O2
reactant | monomethylamine | CN | CH5N
solvent | water | O | H2O
product | 3-(p-methoxybenzyloxy)-1-methylazetidine | COC1=CC=C(COC2CN(C2)C)C=C1 | C12H17NO2
